US07601716B2
7-Iodo-3,3-dimethyl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
2-(5-Iodo-3-nitro-pyridin-2-ylamino)-2-methyl-propionic acid methyl ester (618 mg) was dissolved in ethanol. SnCl22H2O (5 eq) was added and the reaction mixture was heated to 80° C. for three (3) hours. The resulting precipitate was filtered and washed with ethanol to give the title compound as an off-white solid (46% yield). M.p.>300° C., LCMS: m/z=304.30 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 1.29 (s, 6H), 7.11 (bs, 1H), 7.16 (d, J=1.8 Hz, 1H), 7.80 (d, J=2.0 Hz, 1H), 10.38 (bs, 1H).

reactant | 2-(5-Iodo-3-nitro-pyridin-2-ylamino)-2-methyl-propionic acid methyl ester | 618 mg | COC(C(C)(C)NC1=NC=C(C=C1[N+](=O)[O-])I)=O | C10H12IN3O4
solvent | ethanol | C(C)O | C2H6O
product | 7-Iodo-3,3-dimethyl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 46% yield | IC1=CC2=C(NC(C(N2)=O)(C)C)N=C1 | C9H10IN3O
